US07622589B2
9A) N-(6-Chloro-2-methylpyridin-3-yl)methanesulfonamide
A mixture of 3-amino-6-chloro-2-picoline (2.0 g, 14.0 mmol) and methanesulfonyl chloride (1.92 g, 16.8 mmol) in pyridine (40 ml) was stirred for 1 hour at room temperature. After removal of the solvent, the resulting crude product was purified by silica gel column chromatography, eluting with hexane/EtOAc (3:2), to afford 1.70 g (55% yield) of the title compound as pale yellow solids.

reactant | 3-amino-6-chloro-2-picoline | 14.0 mmol, 2.0 g | NC=1C(=NC(=CC1)Cl)C | C6H7ClN2
reactant | methanesulfonyl chloride | 16.8 mmol, 1.92 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-Chloro-2-methylpyridin-3-yl)methanesulfonamide | 1.70 g, 55% yield | ClC1=CC=C(C(=N1)C)NS(=O)(=O)C | C7H9ClN2O2S
